US07863332B2
3.2 mL (20 mmol, 1.5 eq) of heptyl isocyanate are added to a solution of 2.5 g (13 mmol, 1 eq) of (3-bromophenyl)methylamine in 10 ml of tetrahydrofuran in the presence of 2 ml of triethylamine. The reaction mixture is stirred for 12 hours at r.t. The reaction is stopped by addition of 2 mL of water and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). 3.4 g of 1-(3-bromophenyl)-3-heptyl-1-methylurea in solid form are obtained. Yield=77%

reactant | heptyl isocyanate | 20 mmol, 3.2 mL, 1.5 eq | C(CCCCCC)N=C=O | C8H15NO
reactant | (3-bromophenyl)methylamine | 13 mmol, 2.5 g, 1 eq | BrC=1C=C(C=CC1)CN | C7H8BrN
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-bromophenyl)-3-heptyl-1-methylurea | 3.4 g, Yield=77% | BrC=1C=C(C=CC1)N(C(=O)NCCCCCCC)C | C15H23BrN2O
